US07332519B2
5-cyano-2-oxo-5-thiophen-3-yl-cyclohexanecarboxylic acid ethylester (40 g; 0.14 mole) dissolved in a mixture of concentrated hydrochloric acid (200 ml) and glacial acetic acid (400 ml) was heated with stirring for about 4 hours to reflux. On completion of the reaction (reaction monitored by thin layer chromatography), water (100 ml) was added and neutralized with aqueous sodium hydroxide solution (200 ml) and extracted with ethylacetate (2×400 ml). The organic phase was washed with sodium hydrogen carbonate solution (200 ml) and water (100 ml), dried (sodium sulfate) and concentrated under vacuum. Purification by column chromatography (silica gel, 25% ethylacetate in n-hexane) yielded 12.5 g 4-oxo-1-thiophen-3-yl-cyclohexanecarbonitrile (42%; pale yellow solid).

reactant | 5-cyano-2-oxo-5-thiophen-3-yl-cyclohexanecarboxylic acid ethylester | 0.14 mole, 40 g | C(C)OC(=O)C1C(CCC(C1)(C1=CSC=C1)C#N)=O | C14H15NO3S
reactant | water | 100 ml | O | H2O
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | hydrochloric acid | 200 ml | Cl | ClH
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 4-oxo-1-thiophen-3-yl-cyclohexanecarbonitrile | 12.5 g, 42% | O=C1CCC(CC1)(C#N)C1=CSC=C1 | C11H11NOS
